US05135937
5 g of 4-[1-(1,2,4-triazolyl)methyl]benzonitrile is dissolved in 100 ml of tetrahydrofuran and combined at -50° with 20 ml of 1.5-molar solution of lithium diisopropylamide in tetrahydrofuran, stirred for 0.5 hour, further agitated with 2.9 g of cyclohexanone for 1 hour at -70°, and heated to 25°. Then water is added, the mixture is extracted with ethyl acetate, washed neutral with water, dried over sodium sulfate, and concentrated to dryness under vacuum, thus obtaining 7.24 g of crude 4-[1-hydroxycyclohex-1-yl-1-(1,2,4-triazolyl)methyl]benzonitrile.

reactant | 4-[1-(1,2,4-triazolyl)methyl]benzonitrile | 5 g | N1N=C(N=C1)CC1=CC=C(C#N)C=C1 | C10H8N4
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohexanone | 2.9 g | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[1-hydroxycyclohex-1-yl-1-(1,2,4-triazolyl)methyl]benzonitrile | 7.24 g | OC1(CCCCC1)C(C1=NNC=N1)C1=CC=C(C#N)C=C1 | C16H18N4O
